US20010027196A1
To a stirred suspension of 300 mg (1.10 mmol) 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile in 15 ml dry DME were added 0.23 ml (3.86 mmol) ethanol and 0.25 ml (1.65 mmol) DBU and stirring continued for 2 hours at room temperature. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/4) followed by trituration in ether/hexane afforded 21 mg (8%) 2-amino-6-ethoxy-4-furan-2-yl-pyridine-3,5-dicarbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 254 (M+, 90), 226 (100), 198 (44), 143 (26).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyridine-3,5-dicarbonitrile | 1.10 mmol, 300 mg | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)S(=O)C | C12H8N4O2S
reactant | ethanol | 3.86 mmol, 0.23 ml | C(C)O | C2H6O
reactant | DBU | 1.65 mmol, 0.25 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | 15 ml | COCCOC | C4H10O2
product | 2-amino-6-ethoxy-4-furan-2-yl-pyridine-3,5-dicarbonitrile | 21 mg, 8% | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)OCC | C13H10N4O2
